US08492372B2
2-(CHLOROMETHYL)-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXINE
2-(hydroxymethyl)-5-(methylsulfonyl)phenol (0.2 g, 1.0 mmol) was dissolved in EtOH (4.5 ml) and chloroacetaldehyde (0.15 ml, 1.2 mmol) was added. The mixture was cooled to 0° C. and concentrated H2SO4 (2.5 ml) was added dropwise. The reaction mixture was stirred at 0° C. for 10 min and then in room temperature for 2-3 h. Chloroacetaldehyde (50 μl) and concentrated H2SO4 (0.5 ml) was added and the reaction mixture was stirred for another 1-2 h before the reaction was quenched with water. The aqueous phase was extracted with EtOAc and the combined organic phases were dried (Na2SO4) and evaporated under reduced pressure to give an oil. Purification by flash column chromatography (isooctane/EtOAc 2:1) gave the title compound (0.58 g, with some inpurities). MS m/z (rel. intensity, 70 eV) 264 (M+, 5), 262 (M+, 13), 213 (31), 184 (bp), 77 (61), 51 (47).

reactant | 2-(hydroxymethyl)-5-(methylsulfonyl)phenol | 1.0 mmol, 0.2 g | OCC1=C(C=C(C=C1)S(=O)(=O)C)O | C8H10O4S
reactant | chloroacetaldehyde | 1.2 mmol, 0.15 ml | ClCC=O | C2H3ClO
reactant | H2SO4 | 2.5 ml | OS(=O)(=O)O | H2O4S
reactant | Chloroacetaldehyde | 50 μl | ClCC=O | C2H3ClO
reactant | H2SO4 | 0.5 ml | OS(=O)(=O)O | H2O4S
solvent | EtOH | 4.5 ml | CCO | C2H6O
product | 2-(CHLOROMETHYL)-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXINE | ClCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C10H11ClO4S
